US07304081B2
(1R)-1′-({1-[4-(2-Amino-1,3-thiazol-4-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one
N,N-Diisopropylethylamine (50 μL, 0.3 mmol) was added to a mixture of -[4-(2-amino-1,3-thiazol-4-yl)phenyl]cyclopropanecarboxylic acid (26.0 mg, 0.1 mmol), (1S)-(+)-10-camphorsulfonic acid-3H-spiro-[2-benzofuran-1,3′-pyrrolidin]-3-one (1:1) (42.1 mg, 0.01 mmol) and BOP (57.0 mg, 0.13 mmol) in DMF (0.5 mL) at room temperature, and the reaction mixture was stirred for about 5 hours (the completion of the reaction was determined by HPLC). The crude product was purified by prep-HPLC. LC-MS: 432.1 (M+H)+.

reactant | N,N-Diisopropylethylamine | 0.3 mmol, 50 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | [4-(2-amino-1,3-thiazol-4-yl)phenyl]cyclopropanecarboxylic acid | 0.1 mmol, 26.0 mg | NC=1SC=C(N1)C1=CC=C(C=C1)C1(CC1)C(=O)O | C13H12N2O2S
reactant | (1S)-(+)-10-camphorsulfonic acid 3H-spiro-[2-benzofuran-1,3′-pyrrolidin]-3-one | 0.01 mmol, 42.1 mg | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O.N1CC2(CC1)OC(C1=C2C=CC=C1)=O
reactant | BOP | 0.13 mmol, 57.0 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (1R)-1′-({1-[4-(2-Amino-1,3-thiazol-4-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | NC=1SC=C(N1)C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C24H21N3O3S
